US04207327
3,4,5-Trimethoxy-N-(1,2-dimethyl-4-pyrazolidinyl)benzamide.
To 10 g (0.09 mole) of 4-amino-1,2-dimethylpyrazolidine in chloroform was added with stirring 20.7 g. (0.09 mole) of 3,4,5-trimethoxybenzoyl chloride. After 30 minutes of stirring the solution was extracted with dilute sodium hydroxide. The chloroform solution was dried (sodium sulfate), filtered, and the filtrate concentrated. The resulting crystalline material was recrystallized from equal portions of ethyl acetate and isopropyl ether. The product (12.1 g.; 44%) melted at 163°-166° C.

reactant | 4-amino-1,2-dimethylpyrazolidine | 0.09 mole, 10 g | NC1CN(N(C1)C)C | C5H13N3
reactant | 3,4,5-trimethoxybenzoyl chloride | 0.09 mole | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3,4,5-Trimethoxy-N-(1,2-dimethyl-4-pyrazolidinyl)benzamide | COC=1C=C(C(=O)NC2CN(N(C2)C)C)C=C(C1OC)OC | C15H23N3O4
